US09315458B2
B) (2-fluoro-4-(1H-pyrazol-1-yl)phenyl)methanol
To a solution of lithium aluminium hydride (0.16 g) in THF (5.50 mL) was added a solution of methyl 2-fluoro-4-(1H-pyrazol-1-yl)benzoate (0.89 g) in THF (5.50 mL) under ice-cooling, and the mixture was stirred for 1 hr. To the reaction solution was added water, the insoluble substance was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (0.71 g) as a crude product.

reactant | lithium aluminium hydride | 0.16 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-fluoro-4-(1H-pyrazol-1-yl)benzoate | 0.89 g | FC1=C(C(=O)OC)C=CC(=C1)N1N=CC=C1 | C11H9FN2O2
reactant | water | O | H2O
solvent | THF | 5.50 mL | C1CCOC1 | C4H8O
solvent | THF | 5.50 mL | C1CCOC1 | C4H8O
product | (2-fluoro-4-(1H-pyrazol-1-yl)phenyl)methanol | 0.71 g | FC1=C(C=CC(=C1)N1N=CC=C1)CO | C10H9FN2O
